### ISSUE TITLE
LSP stack_space_exception from large subtraction

### ISSUE THREAD

**Issue by ammkrn** [leanprover/lean4#854]
### Prerequisites

* [x] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

Subtraction with a sufficiently large `Nat` seems to cause the server to crash. I think it also has something to do with the subsequent addition (see the last example).

### Steps to Reproduce

Uncomment the `--apply Nat.succ_le_succ` line in either of these examples:

```
theorem mwe (a : Nat) : (a - 100000000) + 1 <= 1 := by
  --apply Nat.succ_le_succ
```

Extracting to an irreducible def also errors out:
```
@[irreducible]
def someConstant : Nat := 100000000

theorem mwe' (a : Nat) : (a - someConstant) + 1 <= someConstant + 1 := by
  --apply Nat.succ_le_succ
```

Same error:
```
theorem mwe'' (a : Nat) : Nat.add (a - 100000000) 1 <= Nat.zero.succ := by
  --apply Nat.succ_le_succ
```

No error, so the addition seems to be implicated:
```
theorem mwe''' (a : Nat) : (a - 100000000).succ <= Nat.zero.succ := by
  --apply Nat.succ_le_succ
```

**Expected behavior:** 
No error

**Actual behavior:**
The lean server crashes and returns the following error:
```
libc++abi: terminating with uncaught exception of type lean::stack_space_exception: deep recursion was detected at 'replace' (potential solution: increase stack space in your system)
```

**Reproduces how often:**
Consistently

### Versions
Lean (version 4.0.0-nightly-2021-12-03, commit c7565c446aa7, Release)
vscode-lean4: 0.0.49
Mac OS Big Sur 11.4
